US08455475B2
2-Benzyl-8-(pyridin-3-yl)-2-azaspiro[4.5]dec-7-ene
SOCl2(1 ml) was added dropwise to a solution of 2-benzyl-8-(pyridin-3-yl)-2-azaspiro[4.5]decan-8-ol (450 mg, 1.39 mmol, 1.0 eq.) in pyridine (5 ml) at −10° C. and the reaction mixture was stirred at the same temperature for 15 min. After completion of the reaction (monitored by TLC), the reaction mixture was poured onto crushed ice and the mixture was then neutralized with sat. NaHCO3 solution (15 ml). It was extracted with methylene chloride (2×30 ml) and the combined organic layers were washed with water (20 ml) and brine (20 ml), and dried over sodium sulfate. The solvent was evaporated under reduced pressure to give the crude product which was purified by column chromatography (silica gel; 10% MeOH/DCM) to yield the desired compound as a reddish sticky solid. Yield: 71% (300 mg, 0.99 mmol).

reactant | SOCl2 | 1 ml | O=S(Cl)Cl | Cl2OS
reactant | 2-benzyl-8-(pyridin-3-yl)-2-azaspiro[4.5]decan-8-ol | 1.39 mmol, 450 mg, 1.0 eq. | C(C1=CC=CC=C1)N1CC2(CC1)CCC(CC2)(O)C=2C=NC=CC2 | C21H26N2O
reactant | NaHCO3 | 15 ml | C(=O)(O)[O-].[Na+]
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 2-Benzyl-8-(pyridin-3-yl)-2-azaspiro[4.5]dec-7-ene | Yield: 71% | C(C1=CC=CC=C1)N1CC2(CC1)CC=C(CC2)C=2C=NC=CC2 | C21H24N2
